US04463079
Synthesis of 4-amino-2-(N-2-phenetylcarbamoyl)-1-naphthol (1-a).
11.64 g (0.04 mol) of 2-(N-2-phenetylcarbamoyl)-1-naphthol was dissolved in a mixture composed of 12 g of potassium hydroxide, 25 ml of water and 200 ml of methanol. To the resulted solution, an aqueous solution of diazonium salt prepared with using 5.75 g of anthranilic acid was added to 0° to 5° C. After stirred at 5° to 10° C. for 30 minutes, 100 ml of a 20% aqueous solution of potassium hydroxide was added thereto and 50 g of sodium hydrosulfite was added at 50° to 60° C. After stirring at the same temperature for 10 minutes, it was cooled with ice and neutralized with diluted hydrochloric acid. The formed light yellow precipitate was filtered off.

reactant | 2-(N-2-phenetylcarbamoyl)-1-naphthol | 0.04 mol, 11.64 g | C1(=C(C=CC=C1)OCC)NC(=O)C1=C(C2=CC=CC=C2C=C1)O | C19H17NO3
reactant | potassium hydroxide | 12 g | [OH-].[K+]
reactant | anthranilic acid | 5.75 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | sodium hydrosulfite | 50 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 4-amino-2-(N-2-phenetylcarbamoyl)-1-naphthol | NC1=CC(=C(C2=CC=CC=C12)O)C(NC1=C(C=CC=C1)OCC)=O | C19H18N2O3
